US04789704
o-Allylphenol (52.2 g), 4,4'-difluorobenzophenone (35 g), 4-fluorobenzophenone (13.8 g), potassium carbonate (37.75 g), dry N-methylpyrrolidone (200 ml) and toluene (75 ml) are placed in a 3-necked 1500 ml flask fitted with a stirrer, reflex condensor and thermometer and the mixture is heated under nitrogen to a temperature between 155°-160° C. and stirred for 3 hours. Water and toluene are separated via a Dean Stark trap and finally after 3 hours the reaction mixture reaches a temperature of 160° C. The mixture is cooled to 100° C. and a 1:1 mixture of toluene/water (400 ml) is added while stirring. After phase separation the aqueous layer is washed with toluene (100 ml) and the combined toluene layers are washed 4 times with water (150 ml). The toluene phase is dried over sodium sulphate and toluene distilled off by use of a rotary evaporator finally in vacuum leaving a 4,4'-bis[o-(1-propenyl)phenoxy]benzophenone/4-[o-(1-propenyl)phenoxy]benzophenone mixture as a light yellow melt. The yield is 89 g.

reactant | o-Allylphenol | 52.2 g | C(C=C)C1=C(C=CC=C1)O | C9H10O
reactant | 4,4'-difluorobenzophenone | 35 g | FC1=CC=C(C(=O)C2=CC=C(C=C2)F)C=C1 | C13H8F2O
reactant | 4-fluorobenzophenone | 13.8 g | FC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C13H9FO
reactant | potassium carbonate | 37.75 g | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 75 ml | C1(=CC=CC=C1)C | C7H8
solvent | N-methylpyrrolidone | 200 ml | CN1C(CCC1)=O | C5H9NO
product | 4,4'-bis[o-(1-propenyl)phenoxy]benzophenone 4-[o-(1-propenyl)phenoxy]benzophenone | C(=CC)C1=C(OC2=CC=C(C(=O)C3=CC=C(C=C3)OC3=C(C=CC=C3)C=CC)C=C2)C=CC=C1.C(=CC)C1=C(OC2=CC=C(C(=O)C3=CC=CC=C3)C=C2)C=CC=C1 | InChI=1S/C31H26O3.C22H18O2/c1-3-9-23-11-5-7-13-29(23)33-27-19-15-25(16-20-27)31(32)26-17-21-28(22-18-26)34-30-14-8-6-12-24(30)10-4-2;1-2-8-17-9-6-7-12-21(17)24-20-15-13-19(14-16-20)22(23)18-10-4-3-5-11-18/h3-22H,1-2H3;2-16H,1H3
